US06844362B2
5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-1H-indole-2-carboxylic acid
A solution of methyl 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-1H-indole-2-carboxylate (Preparation 12, 0.30 g, 0.59 mmol) in 1,4-dioxane (10 ml) was treated with a solution of sodium hydroxide (59 mg, 1.46 mmol) in water (1 ml) and the resulting mixture left to stir at room temperature for 30 minutes. After this time the reaction mixture was heated to 90° C. for 30 minutes and then cooled to room temperature. The solvent was removed in vacuo and the residue re-dissolved in water (20 ml) and pH adjusted to 7 by addition of 2N Hydrochloric acid. The solid that formed was filtered off, solubilised in a mixture of dichloromethane and methanol (20 ml 90:10 by volume), dried (magnesium sulphate) and the solvent removed in vacuo to give the title compound as a pale orange foam.

reactant | methyl 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-1H-indole-2-carboxylate | 0.59 mmol, 0.30 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)OC)C)C1=CC(=C(C=C1)O)CO | C28H40N2O5Si
reactant | sodium hydroxide | 1.46 mmol, 59 mg | [OH-].[Na+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-1H-indole-2-carboxylic acid | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)O)C)C1=CC(=C(C=C1)O)CO | C27H38N2O5Si
